US05064564
A solution of 2.6 g (4.0 mmol) of dichlorobis(triphenylphosphine) nickel and 2.1 g (8.0 mmol) of triphenylphosphine in 30 ml of ether was cooled to 0° C. in an argon atmosphere. To this solution, 1.8 M ethylmagnesium bromide solution in ether was added in an amount of 4.4 ml (8.0 mmol). The resulting mixture was stirred for 1 hour, and the solvent was then removed by evaporation under reduced pressure. To the residue was added a solution of 4.3 g (16.4 mmol) of 4-bromo-4'-methoxybiphenyl in 20 ml of tetrahydrofuran (THF) and 30 ml of dimethoxymethane, and was also added 10 ml of hexamethylphosphoric triamide (HMPA). Thereto was added at 0° C. a Reformatsky reagent prepared from 10.0 g (60.0 mmol) of ethyl bromoacetate, 6.5 g (100 mmol) of zinc, and 10 ml of dimethoxymethane. The resulting mixture was stirred at room temperature overnight. Thereafter, 50 ml of 3 M hydrochloric acid was added thereto, and this mixture was subjected to extraction with 250 ml of ether. The resulting ether solution was washed with purified water, and then concentrated under reduced pressure. The residue was separated and purified by column chromatography (hexane/ethyl acetate=5/1), thereby obtaining 2.16 g (yield 51%) of ethyl 4-(4-methoxyphenyl)phenylacetate.

reactant | triphenylphosphine | 8.0 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethylmagnesium bromide | 1.8 M | C(C)[Mg]Br
reactant | 4-bromo-4'-methoxybiphenyl | 16.4 mmol, 4.3 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C13H11BrO
reactant | ethyl bromoacetate | 60.0 mmol, 10.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 3 M, 50 ml | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethoxymethane | 30 ml | COCOC | C3H8O2
catalyst | zinc | 100 mmol, 6.5 g | [Zn] | Zn
solvent | dimethoxymethane | 10 ml | COCOC | C3H8O2
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ethyl 4-(4-methoxyphenyl)phenylacetate | 2.16 g, yield 51% | COC1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)OCC | C17H18O3
